US08012974B2
((3R,5R)-1-Acetyl-5-methyl-piperidin-3-yl)-carbamic acid tert-butyl ester (0.5 g, 1.971 mmol) was dissolved in DCM (15) and HCl 4M in dioxane (2.5 mL, 10 mmol) was added. The resulting colorless solution was stirred at RT until precipitation of a solid was observed. The solvent was evaporated and the residue was dried under high vacuum to give 0.45 g of 1-((3R,5R)-3-amino-5-methyl-piperidin-1-yl)-ethanone hydrochloride as an off-white solid (>95% yield).

reactant | ((3R,5R)-1-Acetyl-5-methyl-piperidin-3-yl)-carbamic acid tert-butyl ester | 1.971 mmol, 0.5 g | C(C)(C)(C)OC(N[C@H]1CN(C[C@@H](C1)C)C(C)=O)=O | C13H24N2O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 10 mmol, 2.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-((3R,5R)-3-amino-5-methyl-piperidin-1-yl)-ethanone hydrochloride | 0.45 g, >95% yield | Cl.N[C@H]1CN(C[C@@H](C1)C)C(C)=O | InChI=1S/C8H16N2O.ClH/c1-6-3-8(9)5-10(4-6)7(2)11;/h6,8H,3-5,9H2,1-2H3;1H/t6-,8-;/m1./s1
